US07553842B2
Step B: Preparation of 4-(2-oxotetrahydrofuran-3-yl)butyl trifluoromethanesulfonate:
Trifluoromethanesulfonic anhydride (0.64 mL, 3.8 mmol) was added dropwise to a 0° C. solution of 3-(4-hydroxybutyl)-dihydrofuran-2(3H)-one (0.50 g, 3.2 mmol) and DIEA (0.94 mL, 5.4 mmol) in CH2Cl2 (15 mL). After stirring at 0° C. for 1.5 hours, the reaction was diluted with CH2Cl2 and washed sequentially with water, 1 M HCl, and water. The organics were dried over MgSO4 and concentrated under reduced pressure. The crude product was chromatographed (1:2 EtOAc/hexanes) to afford the product as a colorless oil (0.21 g, 23%).

reactant | Trifluoromethanesulfonic anhydride | 3.8 mmol, 0.64 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 3-(4-hydroxybutyl)-dihydrofuran-2(3H)-one | 3.2 mmol, 0.50 g | OCCCCC1C(OCC1)=O | C8H14O3
reactant | DIEA | 5.4 mmol, 0.94 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-oxotetrahydrofuran-3-yl)butyl trifluoromethanesulfonate | 0.21 g, 23% | FC(S(=O)(=O)OCCCCC1C(OCC1)=O)(F)F | C9H13F3O5S
